US09340510B2
Thiazole-5-carboxylic acid {(S)-1-[4-(5-methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-phenyl]-ethyl}-amide
37 mg (0.29 mmol) Thiazole-5-carboxylic acid, 83 μl (0.48 mmol) DIPEA and 154 mg (0.481 mmol) TBTU in 0.5 mL DMF are stirred for 10 min at r.t. Then 80 mg (0.24 mmol) (S)-1-[4-(5-methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-phenyl]-ethylamine hydrochloride (example XXXIII.2) in 1.0 mL DMF and 102 μl (0.601 mmol) DIPEA are added and the resulting mixture is stirred at r.t. for 2 h. After that time, the reaction is quenched by the addition of 200 μL water and purified by HPLC.

reactant | Thiazole-5-carboxylic acid | 0.29 mmol, 37 mg | S1C=NC=C1C(=O)O | C4H3NO2S
reactant | DIPEA | 0.48 mmol, 83 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.481 mmol, 154 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (S)-1-[4-(5-methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-phenyl]-ethylamine hydrochloride | 0.24 mmol, 80 mg | Cl.COC1=C2CCN(CC2=CC=C1)CC1=CC=C(C=C1)[C@H](C)N
reactant | DIPEA | 0.601 mmol, 102 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | Thiazole-5-carboxylic acid {(S)-1-[4-(5-methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-phenyl]-ethyl}-amide | COC1=C2CCN(CC2=CC=C1)CC1=CC=C(C=C1)[C@H](C)NC(=O)C1=CN=CS1 | C23H25N3O2S
